US05248693
The starting material and analogous starting material may be prepared as follows: 3.0 g of 2-(5-hydroxypent-1-yn-1-yl)-benzenesulfonamide and 4.7 ml of pyridine are dissolved at 45° in 200 ml of benzene. The solution is cooled to room temperature and 1.23 ml of acetyl chloride and 3.2 ml of triethylamine are added. The batch is stirred for 1 hour at room temperature under argon until the thin layer chromatogram no longer shows any starting material. The solvent is evaporated off at 15 torr and 40°. A mixture of ethyl acetate, water and 1N hydrochloric acid (100 ml) is added to the residue. In a separating funnel, after shaking, the organic phase is removed and washed with 0.1N hydrochloric acid and with saturated sodium chloride solution, dried (over magnesium sulfate) and concentrated by evaporation at 15 torr and 40°. The crude product is purified on 200 g of silica gel (Merck, ST 60, 40-63 μm) with hexane/ethyl acetate=1/1 as eluant to yield 2-(5-acetoxy-pent-1-yn-1-yl)-benzenesulfonamide in the form of white crystals. The melting point is 66°-68°. 1H-NMR (300 MHz, DMSO-d6): 7.87 (d, d, 1H); 7.45-7.60 (m, 3H); 7.20 (s, 2H); 4.13 (t, 2H); 2.57 (t, 2H); 2.02 (S, 3H); 1.86 (m, 2H).

reactant | 2-(5-hydroxypent-1-yn-1-yl)-benzenesulfonamide | 3.0 g | OCCCC#CC1=C(C=CC=C1)S(=O)(=O)N | C11H13NO3S
reactant | pyridine | 4.7 ml | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 1.23 ml | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 3.2 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 2-(5-acetoxy-pent-1-yn-1-yl)-benzenesulfonamide | C(C)(=O)OCCCC#CC1=C(C=CC=C1)S(=O)(=O)N | C13H15NO4S
